US07825244B2
a. 4-[7-(Azetidin-3-yloxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of Azetidin-3-ol hydrochloride (Oakwood) (461 mg, 4.21 mmol), KOtBu (1.02 g, 9.11 mmol), and dry DMSO (4.2 mL) was stirred at rt for 30 min until a translucent solution resulted. Then 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (1.46 g, 4.41 mmol), as prepared in Example 12b, was added, and the resulting opaque orange mixture (no visible precipitate) was stirred at rt for 3.5 hr. The reaction was then shaken with water (40 mL) and extracted with DCM (1×20 mL) and 9:1 DCM/MeOH (1×20 mL). The combined organic layers were washed with 0.2 M K2CO3 (3×20 mL), dried (Na2SO4), and concentrated to give 1.715 g of the title compound as an off-white solid (“106%” crude yield). LC/MS (ESI): calcd mass 384.2, found 385.3 (MH)+.

reactant | Azetidin-3-ol hydrochloride | 4.21 mmol, 461 mg | Cl.N1CC(C1)O
reactant | KOtBu | 9.11 mmol, 1.02 g | CC(C)(C)[O-].[K+]
reactant | DMSO | 4.2 mL | CS(=O)C | C2H6OS
reactant | 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 4.41 mmol, 1.46 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)F | C18H22FN3O2
solvent | water | 40 mL | O | H2O
product | 4-[7-(Azetidin-3-yloxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 1.715 g, 106% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OC1CNC1 | C21H28N4O3
